US03974212
Parenteral Solution of Sodium (1-hydroxyimino-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetate
100 Mg. of (1-hydroxyimino-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid are dissolved in 3 ml. of 0.1 N-sodium hydrogen carbonate solution. The solution is made up to 10 ml. with water and sterilized.

reactant | (1-hydroxyimino-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | ON=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1CCCC1 | C17H19Cl2NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | Sodium (1-hydroxyimino-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetate | ON=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)[O-])(C)C1CCCC1.[Na+] | InChI=1S/C17H19Cl2NO4.Na/c1-17(10-4-2-3-5-10)7-9-6-11(24-8-12(21)22)14(18)15(19)13(9)16(17)20-23;/h6,10,23H,2-5,7-8H2,1H3,(H,21,22);/q;+1/p-1
